US06642227B2
1-(4-Methyl-5-methylsulfanyl-3-pyridin-3-yl-thiophen-2-yl)-propan-1-one
To a solution of 3-oxo-3-pyridin-3-yl-propionitrile (11.9 mmol) in DMF (100 mL) was added CS2 (0.90 ml, 15.0 mmol) at 0° C. The reaction was stirred at 0° C. for 45 minutes under nitrogen then 1-bromo-butan-2-one (1.79 g, 11.8 mmol) was added via a syringe at 0° C. The reaction was stirred for another 30 minutes then methyl iodide (1.69 g, 11.8 mmol) was added via syringe at 0° C. The resulting mixture was stirred for another 30 minutes then warmed to ambient temperature and poured into saturated aqueous NH4Cl solution (300 mL). The solution was extracted with ethyl acetate (200 mL×3) and the combined organic layers were dried over Na2SO4 then concentrated in vacuo. Purification by chromatography (Silica Gel, 3:1 hexanes:ethyl acetate) afforded 1.05 g desired product. 1H NMR (CDCl3): δ8.8(d, 1H), 8.6 (s, 1H), 7.8 (d, 1H), 7.5 (dd, 1H),2.8 (s, 3H), 2.3 (q, 2H), 1.0 (t, 3H).

reactant | 3-oxo-3-pyridin-3-yl-propionitrile | 11.9 mmol | O=C(CC#N)C=1C=NC=CC1 | C8H6N2O
reactant | CS2 | 15.0 mmol, 0.90 ml | C(=S)=S | CS2
reactant | 1-bromo-butan-2-one | 11.8 mmol, 1.79 g | BrCC(CC)=O | C4H7BrO
reactant | methyl iodide | 11.8 mmol, 1.69 g | CI | CH3I
reactant | NH4Cl | 300 mL | [NH4+].[Cl-]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(4-Methyl-5-methylsulfanyl-3-pyridin-3-yl-thiophen-2-yl)-propan-1-one | 1.05 g | CC=1C(=C(SC1SC)C(CC)=O)C=1C=NC=CC1 | C14H15NOS2
